* Schematics Netlist *



R_R1         $N_0002 $N_0001  1k  
Q_Q1         $N_0001 $N_0001 $N_0003 Q2N2907A
V_V2         0 $N_0002 9V
V_V1         $N_0003 0 9V
V_V3         $N_0004 0 0V
Q_Q2         $N_0004 $N_0001 $N_0003 Q2N2907A
