* Schematics Netlist *



C_C1         $N_0001 Vin  0.1uF  
Q_Q3         Vout Vin $N_0002 Q2N2222
V_VCC         $N_0003 0 9V
V_-VCC         0 $N_0002 9V
R_R1         Vout $N_0003  3k  
I_IBQ         0 Vin DC 16.753uA  
V_Vs         $N_0001 0 DC 0V AC 0.1V 
